* source LOGIC_PROBE_WITH_TRISTATE
R_R1         N01099 VIN  680 TC=0,0 
V_V1         VDD 0 5V
X_D1         N01486 N01099 LED PARAMS: IS=1.8525e-17 RS=2  BV=5 IBV=10e-6      
+    
X_D2         VA 0 LED PARAMS: IS=3.9573e-19 RS=2  BV=5 IBV=10e-6         
X_D3         VIN N01095 LED PARAMS: IS=8.4534e-21 RS=2  BV=5 IBV=10e-6         
V_V2         VIN 0 5V
R_R2         VDD VA  680 TC=0,0 
R_R3         N01095 N01493  680 TC=0,0 
R_R4         N01939 0  680 TC=0,0 
