* source PREP6_ANALOG2
R_R32         0 N27049  20k TC=0,0 
R_R30         IN N26677  15k TC=0,0 
R_R34         0 N27243  10k TC=0,0 
R_R33         N27243 OUT  750k TC=0,0 
R_R29         N26729 N26739  20k TC=0,0 
X_U1D         N26739 N27243 +30V 0 OUT LM324
X_U1A         N26861 N26687 +30V 0 N26687 LM324
R_R31         N26677 N26861  15k TC=0,0 
C_C19         N26729 N27049  1n  TC=0,0 
C_C18         N27029 N26729  1n  TC=0,0 
V_V9         IN 0  AC 1
+SIN 0 1 10k 0 0 0
X_U1B         N26687 N27029 +30V 0 N27029 LM324
V_V7         +30V 0 30V
C_C20         N26861 0  1n  TC=0,0 
C_C17         N26677 N26687  1n  TC=0,0 
X_U1C         N27049 N26739 +30V 0 N26739 LM324
