* source PREP5_ANALOG2_LAB
X_U1         VIN- N05660 VP VN N05776 uA741
V_V2         GND VN 15V
R_R1         N05776 N05674  1Meg TC=0,0 
X_U2         0 N05674 VP VN VOUT uA741
R_R2         N05674 VOUT  10k TC=0,0 
R_R6         N05660 N05668  1k TC=0,0 
R_R3         N05660 N05776  19k TC=0,0 
V_V3         VIN- 0 DC 0Vdc AC 0.5Vac 
X_R5         N05674 N05674 N05668 POT PARAMS: SET={pot_sweep} VALUE=1Meg
V_V1         VP GND 15V
.PARAM  pot_sweep=0
