* source PREP5_ANALOG2_LAB
V_V1         VP GND 15V
V_V2         GND VN 15V
X_R5         N06010 N06010 N06122 POT PARAMS: SET={pot_sweep} VALUE=1Meg
X_U1         VIN1 N05995 VP VN N00480 uA741
X_U2         N06247 N06264 VP VN VOUT uA741
X_U3         0 N06010 VP VN N05857 uA741
R_R6         N06122 N05995  1k TC=0,0 
R_R7         N05995 N00480  10k TC=0,0 
R_R8         N05857 N06010  10k TC=0,0 
R_R9         N06247 N05857  20k TC=0,0 
R_R10         N06264 N00480  20k TC=0,0 
R_R11         VOUT N06264  20k TC=0,0 
R_R12         0 N06247  20k TC=0,0 
V_V3         VIN1 0  AC 0.5
+SIN 0 0.5 1k 0 0 0
.PARAM  pot_sweep=1
