* source PREP7_ANALOG2
X_U1         N01352 N01366 +15V -15V VOUT2 LM741
X_U2A         0 N00343 +15V -15V N00360 LM324
X_U2B         0 N00384 +15V -15V VOUT1 LM324
R_R1         VIN1 N00343  3.3k TC=0,0 
R_R2         N00343 N00360  10k TC=0,0 
R_R3         N00360 N00384  3.3k TC=0,0 
R_R4         VIN2 N00384  3.3k TC=0,0 
R_R5         N00384 VOUT1  3.3k TC=0,0 
V_V1         +15V 0 15V
V_V2         0 -15V 15V
V_V3         VIN1 0 -2
V_V4         VIN2 0 2
R_R6         N01366 VOUT2  10k TC=0,0 
R_R7         VIN2 N01366  3.3k TC=0,0 
R_R8         VIN1 N01352  3.3k TC=0,0 
R_R9         0 N01352  10k TC=0,0 
